US04451476
3-(4-Carboxybutyl)-5-methylisoxazole was prepared from 5-methyl-3-(3-bromopropyl)isoxazole and diethyl malonate according to the procedure of part (c) above, and was obtained in 56% yield as a colorless solid, m.p. 58°-60° C. when recrystallized from carbon tetrachloride.

reactant | 5-methyl-3-(3-bromopropyl)isoxazole | CC1=CC(=NO1)CCCBr | C7H10BrNO
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 3-(4-Carboxybutyl)-5-methylisoxazole | 56% yield | C(=O)(O)CCCCC1=NOC(=C1)C | C9H13NO3
